US04711958
In a mixture of 10 ml of water and 10 ml of dioxane were dissolved 1.4 g of (2RS, 3S)-3-amino-4-cyclohexyl-2-hydroxybutyric acid hydrochloride and 1.64 ml of triethylamine, and to the solution was added 3.2 g of di-tert-butyldicarbonate. The mixture was stirred for 16 hours at room temperature, and to the reaction mixture was added 20 ml of water. The mixture was extracted with diethyl ether to remove neutral materials. The aqueous layer was acidified by adding an aqueous citric acid solution, and then extracted with diethyl ether. The ethereal layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to obtain 0.9 g of (2RS, 3S)-3-tert-butoxycarbonylamino-4-cyclohexyl-2-hydroxybutyric acid as a colorless oil.

reactant | (2RS, 3S)-3-amino-4-cyclohexyl-2-hydroxybutyric acid hydrochloride | 1.4 g | Cl.N[C@H](C(C(=O)O)O)CC1CCCCC1
reactant | triethylamine | 1.64 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 3.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 10 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | (2RS, 3S)-3-tert-butoxycarbonylamino-4-cyclohexyl-2-hydroxybutyric acid | 0.9 g | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)O)O)CC1CCCCC1 | C15H27NO5
